US09062013B2
trans-2-phenyl-N-[2-chloro-4-(trifluoromethyl)phenyl]spiro[2.4]heptane-1-carboxamide
trans-2-Phenylspiro[2.4]heptane-1-carboxylic acid (300 mg, 1.39 mmol) and 2-chloro-4-trifluoromethyl-phenylamine (272 mg, 1.39 mmol) were reacted as described under General Procedure D to furnish the title compound (312 mg, 57%) as a white solid. 1H NMR (300 MHz, d6-DMSO) δ 9.91 (s, 1H), 8.20 (d, J=8.5 Hz, 1H), 7.89 (d, J=1.6 Hz, 1H), 7.67 (d, J=8.5, 1.6 Hz, 1H), 7.31 (t, J=7.3 Hz, 2H), 7.22-7.16 (m, 3H), 2.80 (d, J=5.7 Hz, 1H), 2.70 (d, J=5.7 Hz, 1H), 1.82-1.73 (m, 2H), 1.66-1.42 (m, 5H), 1.29-1.10 (m, 1H). mp 131-133° C. ESIMS m/z [M+H]+ 394.3.

reactant | trans-2-Phenylspiro[2.4]heptane-1-carboxylic acid | 1.39 mmol, 300 mg | C1(=CC=CC=C1)[C@H]1[C@@H](C12CCCC2)C(=O)O | C14H16O2
reactant | 2-chloro-4-trifluoromethyl-phenylamine | 1.39 mmol, 272 mg | ClC1=C(C=CC(=C1)C(F)(F)F)N | C7H5ClF3N
product | trans-2-phenyl-N-[2-chloro-4-(trifluoromethyl)phenyl]spiro[2.4]heptane-1-carboxamide | 312 mg, 57% | C1(=CC=CC=C1)[C@H]1[C@@H](C12CCCC2)C(=O)NC2=C(C=C(C=C2)C(F)(F)F)Cl | C21H19ClF3NO
